US07749972B2
To a solution of 7-benzyloxy-1H-indole (0.3 g) in N,N-dimethylformamide (5 mL) was added sodium hydride (55% 70 mg) under ice-cooling, and the mixture was stirred for 10 minutes. To the reaction mixture was added 4-methylbenzyl chloride (0.19 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 7-benzyloxy-1-(4-methylbenzyl)-1H-indole (0.43 g). This material was dissolved in tetrahydrofuran (6 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give the title compound (86 mg).

reactant | 7-benzyloxy-1H-indole | 0.3 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | 4-methylbenzyl chloride | 0.19 mL | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 7-benzyloxy-1-(4-methylbenzyl)-1H-indole | 0.43 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CN(C12)CC1=CC=C(C=C1)C | C23H21NO
